### PR TITLE
feat(CategoryTheory/Abelian/TorsionTheory): Introduce torsion theory for abelian categories

### PR DESCRIPTION
**Pull request by farmanb**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,180 @@
...
+variable {C : Type u} [Category.{v} C] [Abelian C]
+
+/-- A Torsion Theory in an abelian category consists of two classes, `T` and `F`, of
+torsion and torsion-free objects, respectively, such that `T` is the left orthogonal
+of `F` and `F` is the right orthogonal of `T`. -/
+class TorsionTheory (T F : ObjectProperty C) : Prop where
+  T_leftOrthogonal : T ≤ F.leftOrthogonal
+  F_rightOrthogonal : F ≤ T.rightOrthogonal
+  le_leftOrthogonal : F.leftOrthogonal ≤ T
+  le_rightOrthogonal : T.rightOrthogonal ≤ F
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: Why not using two equalities?

**Comment by farmanb** [comment]
WIP

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean (hunk 1 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: Sleep deprivation. Two equalities definitely makes more sense.

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,180 @@
...
+universe v u u' v'
+
+namespace CategoryTheory.Abelian
+
+variable {C : Type u} [Category.{v} C] [Abelian C]
+
+/-- A Torsion Theory in an abelian category consists of two classes, `T` and `F`, of
+torsion and torsion-free objects, respectively, such that `T` is the left orthogonal
+of `F` and `F` is the right orthogonal of `T`. -/
+class TorsionTheory (T F : ObjectProperty C) : Prop where
```
Comment (plp127) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: this resembles `Concept`

Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: I feel it would be more practical to have this as a structure rather than a class.

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,180 @@
...
+        let t : Limits.CokernelCofork S.f :=
+          Limits.CokernelCofork.ofπ k  (hTF.mem_torsion_iff.mp hX₁ (S.f ≫ k) hZ)
+        let l : S.X₃ ⟶ Z := hs.gIsCokernel.desc t
+        have hl: l = 0 := hTF.mem_free_iff.mp hZ l hX₃
+        have hfac : S.g ≫ l = k :=
+          hs.gIsCokernel.fac t Limits.WalkingParallelPair.one
+        simp [← hfac, hl]
+
+lemma isClosedUnderCoproducts_of_torsionTheory {T F : ObjectProperty C} (hTF : TorsionTheory T F) :
+    ∀ {J : Type w}, T.IsClosedUnderColimitsOfShape (Discrete J) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: This should hold for colimits of any shape, and this should even be an instance for `MorphismProperty.leftOrthogonal` (and there is a dual statement for `rightOrthogonal`).
In general, from the various lemmas, could you extract the statements (instances) which hold for any left or right orthogonal?

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,355 @@
...
+    P (image f) :=
+  ObjectProperty.IsClosedUnderQuotients.prop_of_epi (factorThruImage f) hX
+
+lemma prop_sSup_subobjectOf (P : ObjectProperty C)
+    [P.IsClosedUnderQuotients] [∀ J : Type w, P.IsClosedUnderColimitsOfShape (Discrete J)]
+    [LocallySmall.{w} C] [WellPowered.{w} C] [HasCoproducts.{w} C]
+    (X : C) :
+    P (Subobject.sSup {A : Subobject X | P (A : C)}) := by
+  let subobjs := {A : Subobject X | P (A : C)}
+  let I := equivShrink (Subobject X) '' subobjs
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: Here, you may probably simplify the proof a little bit by showing that `C` has coproducts of shape `subobjs` (and `P` is stable under such coproducts) by transporting the assumptions through an equivalence of discrete categories (also given by `equivShrink`, but once these instance are around, `equivShrink` will no longer be necessary in the rest of the code).

Comment (farmanb) [reply Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: I took a stab at this. I'm not sure it's actually simpler. I can't see a way to avoid using equivShrink since `sSup subobjs` is defined to be the image of `smallCoproductDesc subobjs`, which in turn is defined via `equivShrink`. The colimit over the `subobjs`-indexed functor is isomorphic but not definitionally equal to the coproduct inside `sSup`, so it appears necessary to build the bridge between them explicitly. I'm not sure if you see something that I don't, or if I've misunderstood your intent...

Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: It is even more simple:
```lean
lemma prop_sSup_subobjectOf (P : ObjectProperty C)
    [P.IsClosedUnderQuotients] [∀ J : Type w, P.IsClosedUnderColimitsOfShape (Discrete J)]
    [LocallySmall.{w} C] [WellPowered.{w} C] [HasCoproducts.{w} C]
    (X : C) : P (Subobject.sSup {A : Subobject X | P (A : C)}) :=
  P.prop_of_iso (Subobject.underlyingIso
    (Limits.image.ι (Subobject.smallCoproductDesc _))).symm
      (P.prop_of_epi (factorThruImage _)
        ((ObjectProperty.prop_colimit _ _ (fun ⟨j⟩ ↦ by
          dsimp
          obtain ⟨S, hS, hj⟩ := j.2
          simpa [← hj] using hS))))
```

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,497 @@
...
+  torsion_eq_leftOrthogonal : T = F.leftOrthogonal
+  free_eq_rightOrthogonal : F = T.rightOrthogonal
+
+/-- A property of objects is a torsion class if it is the torsion class of some
+torsion theory. -/
+def IsTorsionClass (P : ObjectProperty C) : Prop := ∃ F, TorsionTheory P F
+
+/-- A property of objects is a torsion-free class if it is the torsion-free class of some
+torsion theory. -/
+def IsTorsionFreeClass (P : ObjectProperty C) : Prop := ∃ T, TorsionTheory T P
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean]: These should probably be made typeclasses so that some results below could be made instances.
(This is similar to what we do with adjunctions between functors: everytime we define an adjunction between `F` and `G`, we should add instances `F.IsLeftAdjoint` and `G.IsRightAdjoint`, so that the preservations of (co)limits can later be inferred automatically for `F` and `G`. Similarly, here, everytime we prove some `(T, F)` is a torsion theory, we would add a `IsTorsionClass T` instance, etc, so that we immediately know that `T` must be stable under extensions, etc.)

File: Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,599 @@
...
+    P.leftOrthogonal.rightOrthogonal.leftOrthogonal = P.leftOrthogonal :=
+  le_antisymm (antitone_leftOrthogonal (le_leftOrthogonal_rightOrthogonal P))
+    (le_rightOrthogonal_leftOrthogonal P.leftOrthogonal)
+
+@[simp]
+lemma rightOrthogonal_leftOrthogonal_rightOrthogonal :
+    P.rightOrthogonal.leftOrthogonal.rightOrthogonal = P.rightOrthogonal :=
+  le_antisymm (antitone_rightOrthogonal (le_rightOrthogonal_leftOrthogonal P))
+    (le_leftOrthogonal_rightOrthogonal P.rightOrthogonal)
+
```
Comment (plp127) [inline Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean:118]: These are all duplicates of statements for `upperPolar` and `lowerPolar`

Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/TorsionTheory/Basic.lean:119]: I think we should keep such lemmas! Also `upperPolar`, etc. involve `Set` while here, we use `ObjectProperty` which is defined in terms of predicates...

File: Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean [hunk 7]
```diff
@@ -50,6 +50,75 @@ def leftOrthogonal : ObjectProperty C :=
...
+    P.rightOrthogonal.leftOrthogonal.rightOrthogonal = P.rightOrthogonal :=
+  gc_rightOrthogonal_leftOrthogonal.l_u_l_eq_l P
+
+lemma rightOrthogonal_op : P.op.rightOrthogonal = P.leftOrthogonal.op := by
+  ext X
+  constructor
+  · intro h Y f hY
+    simpa using congrArg Quiver.Hom.unop (h f.op hY)
+  · intro h Y f hY
+    simpa using congrArg Quiver.Hom.op (h f.unop hY)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean]: We can use the `congr(...)` elaborator:
```suggestion
  exact ⟨fun h _ _ hY ↦ congr($(h _ hY).unop), fun h _ _ hY ↦ congr($(h _ hY).op)⟩
```
Could you modify the other similar lemmas accordingly?

File: Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean [hunk 8]
```diff
@@ -50,6 +50,75 @@ def leftOrthogonal : ObjectProperty C :=
...
+      (leftOrthogonal ∘ OrderDual.ofDual) :=
+  fun _ _ ↦ ⟨fun h _ hPX _ f hQY ↦ h _ hQY f hPX, fun h _ hQY _ f hPX ↦ h _ hPX f hQY⟩
+
+lemma le_leftOrthogonal_iff_le_rightOrthogonal (Q : ObjectProperty C) :
+    P ≤ Q.leftOrthogonal ↔ Q ≤ P.rightOrthogonal :=
+  -- the Galois connection has `rightOrthogonal` as its left adjoint, so its two sides
+  -- appear in the opposite order
+  (gc_rightOrthogonal_leftOrthogonal P (OrderDual.toDual Q)).symm
+
+lemma le_rightOrthogonal_leftOrthogonal : P ≤ P.rightOrthogonal.leftOrthogonal :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean]: Technically the RHS is `leftOrthogonal (rightOrthogonal P)`. According to the current practice for naming conventions, I think that the lemma should be named `le_leftOrthogonal_rightOrthogonal`. Some other names of lemmas should be changed similarly.

File: Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean (hunk 7 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean]: Updated the lemmas to all use the `congr(...)` elaborator.

File: Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean (hunk 8 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/ObjectProperty/Orthogonal.lean]: Good catch. I was reading those backwards from the dot notation. I think I've fixed all instances of backwards naming.

**Comment by joelriou** [comment]
As the code starts to converge towards a reasonable state (congratulations!), could you make a separate PR containing only the additions in the two files `Orthogonal.lean` and `OrthogonalClosed.lean`?

**Comment by farmanb** [comment]
> As the code starts to converge towards a reasonable state (congratulations!), could you make a separate PR containing only the additions in the two files `Orthogonal.lean` and `OrthogonalClosed.lean`?

Absolutely. I'm going to try to make some time to hammer out the last few bits. Hope to get it finished up in the next couple days.
